US07935832B2
A solution of ethyl 2-[1-bromo-2-(ethyloxy)-2-oxoethyl]benzoate (2.11 g, 6.7 mmol) in anhydrous tetrahydrofuran (200 ml) was treated with a 2M solution of ethylamine in tetrahydrofuran (8 ml, 16 mmol) and stirred at 20° C. for 48 hrs. The tetrahydrofuran was removed by evaporation and then the residue was taken up in ethyl acetate (150 ml) and water (150 ml). The aqueous phase was separated and extracted with more ethyl acetate (100 ml) and then the combined organic fractions was washed with saturated aqueous sodium chloride solution (150 ml) and then dried over magnesium sulphate and evaporated to give a yellow oil. The oil was purified by automated flash silica-gel column chromatography (using a Biotage SP4), eluting with 10-50% gradient of ethyl acetate in hexane, to give ethyl 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylate (1.4 g) as a colourless oil which solidified on standing and was used in the next step without further purification.

reactant | ethyl 2-[1-bromo-2-(ethyloxy)-2-oxoethyl]benzoate | 6.7 mmol, 2.11 g | BrC(C(=O)OCC)C1=C(C(=O)OCC)C=CC=C1 | C13H15BrO4
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 mmol, 8 ml | O1CCCC1 | C4H8O
product | ethyl 2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylate | 1.4 g | C(C)N1C(C2=CC=CC=C2C1=O)C(=O)OCC | C13H15NO3
